US07109229B2
(b) 3-(6-Methyl-1H-indol-3-yl)-4-(1-methyl-1H-indol-7-yl)pyrrole-2,5-dione
To a solution of 2-(1-methyl-1H-indol-7-yl)acetamide (260 mg, 1.38 mmol) and methyl 2-(6-Methyl-1H-indol-3-yl)oxoacetate (300 mg, 1.38 mmol) in DMF (5.4 mL) was added a 1.0 M solution of potassium tert-butoxide in THF (1.38 mL, 1.38 mmol) at 4° C. under N2. The reaction was stirred for 20 min at this temperature, and additional KOtBu (2.76 mL, 2.76 mmol) was added. The resulting dark red solution was heated to 50° C. and stirred overnight. The mixture was cooled to room temperature and quenched with 1.0 N HCl (9 mL) and poured into EtOAc (300 mL). The organic layer was separated, washed with saturated aqueous NaHCO3 (150 mL), and brine (3×150 mL). The solution was dried (MgSO4), filtered, and concentrated to a red solid. Flash chromatography (SiO2, 30% EtOAc/hexanes) gave the title compound (227 mg, 46%) as a red solid, mp 200–220° C. dec. 1H NMR (DMSO-d6) δ 11.72 (s, 1H), 11.09 (s, 1H), 7.90 (s, 1H), 7.59 (m, 1H), 7.24 (s, 1H), 7.10 (s, 1H), 6.96 (m, 1H), 6.83 (m, 1H), 6.45 (s, 1H), 6.27 (m, 1H), 6.11 (m, 1H), 3.64 (s, 3H), 2.18 (s, 3H). MS (APCI): m/z=356 [C22H17N3O2+H]+

reactant | 2-(1-methyl-1H-indol-7-yl)acetamide | 1.38 mmol, 260 mg | CN1C=CC2=CC=CC(=C12)CC(=O)N | C11H12N2O
reactant | methyl 2-(6-Methyl-1H-indol-3-yl)oxoacetate | 1.38 mmol, 300 mg | CC1=CC=C2C(=CNC2=C1)C(C(=O)OC)=O | C12H11NO3
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | THF | 1.38 mmol, 1.38 mL | C1CCOC1 | C4H8O
reactant | KOtBu | 2.76 mmol, 2.76 mL | CC(C)(C)[O-].[K+]
solvent | DMF | 5.4 mL | CN(C)C=O | C3H7NO
product | 3-(6-Methyl-1H-indol-3-yl)-4-(1-methyl-1H-indol-7-yl)pyrrole-2,5-dione | 227 mg, 46% | CC1=CC=C2C(=CNC2=C1)C=1C(NC(C1C=1C=CC=C2C=CN(C12)C)=O)=O | C22H17N3O2
